US06825191B2
Synthesis of 4-(4-chlorobenzoyl)-8-cyano-1-[4-(1-pyrrolidinylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
1.8 g (3.5 mmol) of 4-(4-chlorobenzoyl)-2-oxo-1-[4(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid was dissolved in 10 ml of THF. 0.73 ml (5.3 mmol) of triethylamine and 0.40 ml (4.1 mmol) of ethyl chloroformate were added to the obtained solution, and they were stirred or 30 minutes. 10 ml of aqueous ammonia was added to the reaction mixture. The temperature was elevated to room temperature, and the obtained mixture was stirred overnight. After the treatment with ethyl acetate as the extracting solvent by ah ordinary method, the solvent was evaporated and 1.35 g (2.63 mmol) of the obtained elide product was dissolved in 20 ml of dichloromethane. 760 mg (3.19 mmol) of (methoxycarbonylsulfamoyl)-triethylammonium hydroxide was added to the obtained solution, and the obtained mixture was stirred overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the solvent was evaporated, and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-2-oxo-1-[4(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid | 3.5 mmol, 1.8 g | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)C(=O)O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H24ClN3O5
reactant | triethylamine | 5.3 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 4.1 mmol, 0.40 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 10 ml | N | H3N
reactant | (methoxycarbonylsulfamoyl)-triethylammonium hydroxide | 3.19 mmol, 760 mg | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(4-chlorobenzoyl)-8-cyano-1-[4-(1-pyrrolidinylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)C#N)CC3=CC=C(C=C3)C(=O)N3CCCC3)=O)C=C1 | C29H25ClN4O3
